US03962320
To a solution of 10g (0.03 mole) of bis-(p-pivaloylbenzyl) malonic acid diethyl ester in 45 ml of ethanol and 45 ml of water, there is added 8.4 g (0.15 mole) potassium hydroxide which is refluxed for 5 hours. The solvents are removed in vacuo and the residue partitioned between ether and water. The aqueous layer is made acidic at 0°C with concentrated hydrochloric acid, extracted with ether, dried and evaporated. The resulting oil is treated with 200 ml of concentrated hydrochloric acid and the mixture is refluxed for 20 hours. The cooled mixture is extracted with ether, the ether extracted with 2N sodium hydroxide and the basic solution is made acidic at 0°C with concentrated hydrochloric acid, extracted with ether, and the ether is then dried and evaporated. The resulting residue is crystallized from ether/petroleum ether to give bis-(p-pivaloylbenzyl) acetic acid, m.p. 107°-109°C.

reactant | bis-(p-pivaloylbenzyl) malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(CC1=CC=C(C=C1)C(C(C)(C)C)=O)CC1=CC=C(C=C1)C(C(C)(C)C)=O)=O | C31H40O6
reactant | potassium hydroxide | 0.15 mole, 8.4 g | [OH-].[K+]
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | water | 45 ml | O | H2O
product | bis-(p-pivaloylbenzyl) acetic acid | C(C(C)(C)C)(=O)C1=CC=C(CC(C(=O)O)CC2=CC=C(C=C2)C(C(C)(C)C)=O)C=C1 | C26H32O4
